US05117064
To a mixture consisting of 50 g of 2,4-dichloro-5-methanesulfonylnitrobenzene and 150 ml of methoxyethanol was added dropwise a methoxyethanol solution of potassium hydroxide (potassium hydroxide 14.6 g/methoxyethanol 150 ml) while keeping the temperature at -5° C. or below. The reaction was carried out at -2° C. for 30 minutes and the reaction mixture was neutralized by adding 4 ml of concentrated hydrochloric acid. The neutralized mixture was heated to 90° C, whereby a uniform solution was formed. After the solution was cooled to 70° C., 220 ml of warm water was added dropwise thereto. The resulting precipitated crystal was recovered by filtration and dried to obtain 2-methoxyethoxy-4-chloro-5-methanesulfonylnitrobenzene. Yield: 50 g (87%).

reactant | 2,4-dichloro-5-methanesulfonylnitrobenzene | 50 g | ClC1=C(C=C(C(=C1)Cl)S(=O)(=O)C)[N+](=O)[O-] | C7H5Cl2NO4S
reactant | methoxyethanol | 150 ml | COC(C)O | C3H8O2
reactant | potassium hydroxide | 150 ml, 14.6 g | [OH-].[K+]
reactant | hydrochloric acid | 4 ml | Cl | ClH
solvent | water | 220 ml | O | H2O
product | 2-methoxyethoxy-4-chloro-5-methanesulfonylnitrobenzene | COCCOC1=C(C=C(C(=C1)Cl)S(=O)(=O)C)[N+](=O)[O-] | C10H12ClNO6S
